US07759337B2
Synthesis of 3-(1-cyanophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide
To methyl 3-(1-cyanophthalazin-6-yl)-4-methylbenzoate (0.800 g, 2.6 mmol) was added 6N HCl (10.6 mL) and the reaction was heated in a microwave oven for 25 min at 120° C. The reaction was concentrated, dried in vacuo and DMF (5.3 mL) and cyclopropylamine (0.92 mL, 13 mmol) were added. HATU (2.0 g, 5.3 mmol) was added and the reaction mixture was stirred at RT for 1 h, then diluted with 75 mL ethyl acetate, partitioned with sodium bicarbonate (saturated, aqueous), and the organic layers were washed 2×20 mL with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by HPLC to give the title compound. MS (ES+): 329(M+H)+.

reactant | methyl 3-(1-cyanophthalazin-6-yl)-4-methylbenzoate | 2.6 mmol, 0.800 g | C(#N)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1C | C18H13N3O2
reactant | HCl | 6N, 10.6 mL | Cl | ClH
reactant | cyclopropylamine | 13 mmol, 0.92 mL | C1(CC1)N | C3H7N
reactant | HATU | 5.3 mmol, 2.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5.3 mL | CN(C)C=O | C3H7NO
product | 3-(1-cyanophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | C(#N)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C20H16N4O
